US04889857
By the use of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(dimethylaminomethyl)morpholine, the reaction is similarly carried out as Example 1 to give 1-cyclopropyl-7-[2-(dimethylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 182°-183° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2-(dimethylaminomethyl)morpholine | CN(C)CC1CNCCO1 | C7H16N2O
product | 1-cyclopropyl-7-[2-(dimethylaminomethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CN(C)C)F)=O)C(=O)O | C20H23F2N3O4
